US08937181B2
N-Cyclopropyl-N-piperidin-4-yl-3-trifluoromethyl-benzenesulfonamide (0.372 g, 1.1 mmol), HOBt (0.145 g, 1.1 mmol), EDCI (0.246 g, 1.32 mmol) and rac-cis-2-(tert-butoxycarbonylamino)-cyclopentanecarboxylic acid (0.275 g, 1.2 mmol) were dissolved in 5 ml of dry CH2Cl2. The mixture allowed to stir at room temperature for 12 hours. The reaction mixture was diluted with 30 ml of CHCl3 and washed with 10 ml of H2O. The organic layer was dried over MgSO4 and concentrated to dryness. The crude product was purified through a column of silica gel with a gradient of 30% to 70% EtOAc in hexane to afford the rac-((1R,2S)-2-{4-[cyclopropyl-(3-trifluoromethyl-benzenesulfonyl)-amino]-piperidine-1-carbonyl}-cyclopentyl)-carbamic acid tert-butyl ester (592 mg, 99%).

reactant | N-Cyclopropyl-N-piperidin-4-yl-3-trifluoromethyl-benzenesulfonamide | 1.1 mmol, 0.372 g | C1(CC1)N(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCNCC1 | C15H19F3N2O2S
reactant | HOBt | 1.1 mmol, 0.145 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.32 mmol, 0.246 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | rac-cis-2-(tert-butoxycarbonylamino)-cyclopentanecarboxylic acid | 1.2 mmol, 0.275 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCC1)C(=O)O | C11H19NO4
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | rac-((1R,2S)-2-{4-[cyclopropyl-(3-trifluoromethyl-benzenesulfonyl)-amino]-piperidine-1-carbonyl}-cyclopentyl)-carbamic acid tert-butyl ester | 592 mg, 99% | C(C)(C)(C)OC(N[C@H]1[C@H](CCC1)C(=O)N1CCC(CC1)N(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CC1)=O | C26H36F3N3O5S
